US04824959
C. 1,1-Bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-1-propene
A slurry of 1,1-bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)propanol (8.25 g, 0.025 mole) "prepared in Step B" and 100 mg of p-toluene sulfonic acid monohydrate in xylene (60 mL) was heated to reflux with a Dean & Stark water collecting apparatus for a period of 12 hours. The reaction mixture was washed with 1N NaOH (10 mL) while it was warm and with water (100 mL). Concentration of the organic layer gave off-white crystals of product. This was purified by recrystallization from ethanol-hexane to give 7.1 g (91%) of the title compound as white crystals; m.p.=146°-147° C.

reactant | 1,1-bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)propanol | 0.025 mole, 8.25 g | FC1=CC=C(C=C1)C(C(C)C1=NN=NN1C)(O)C1=CC=C(C=C1)F | C17H16F2N4O
reactant | p-toluene sulfonic acid monohydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | xylene | 60 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 1,1-Bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-1-propene | 7.1 g, 91% | FC1=CC=C(C=C1)C(=C(C)C1=NN=NN1C)C1=CC=C(C=C1)F | C17H14F2N4
